US06716859B2
2-Phenoxypyridine-3-carboxylic acid (3-trifluoromethylbenzylidene)-hydrazide
A solution of 2-phenoxypyridine-3-carboxylic acid hydrazide (913 mg, 4 mmol), 3-trifluoromethylbenzaldehyde (696 mg, 4 mmol) in ethanol (40 mL) was refluxed for 13 h. It was cooled to room temperature and some precipitate was observed. The mixture was diluted by water (40 mL) and the solid was collected by filtration and washed with ethanol/water (1:1), dried to give 1.41 g (92%) of the title compound. 1H NMR (CDCl3): 10.84 (s, 1H), 8.63 (m, 1H), 8.23 (s, 1H), 8.16 (m, 1H), 7.91 (bs, 1H), 7.88 (d, J=8.4 Hz, 1H), 7.54 (d, J=7.8 Hz, 1H), 7.40 (m, 3H), 7.24 (t, J=7.2 Hz, 1H), 7.18-7.08 (m, 3H).

reactant | 2-phenoxypyridine-3-carboxylic acid hydrazide | 4 mmol, 913 mg | O(C1=CC=CC=C1)C1=NC=CC=C1C(=O)NN | C12H11N3O2
reactant | 3-trifluoromethylbenzaldehyde | 4 mmol, 696 mg | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | water | 40 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-Phenoxypyridine-3-carboxylic acid (3-trifluoromethylbenzylidene)-hydrazide | 1.41 g, 92% | FC(C=1C=C(C=NNC(=O)C=2C(=NC=CC2)OC2=CC=CC=C2)C=CC1)(F)F | C20H14F3N3O2
